US07745641B2
4-Trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.0 mg, 0.135 mmol) was dissolved in 1,4-dioxane (2.4 mL), and the solution was added with hydroxymethyltributyltin (87 mg, 0.27 mmol) synthesized in a similar manner to the method described in Synthetic Communications, 1994, vol. 24, p. 1117, and tetrakis(triphenylphosphine)palladium (12.5 mg, 0.0108 mmol), followed by stirring at 90° C. for 2.7 hours under argon atmosphere. The mixture was further added with tetrakis(triphenylphosphine)palladium (6.3 mg, 0.054 mmol) and stirred for 2.3 hours. Further, the mixture was added with hydroxymethyltributyltin (44 mg, 0.14 mmol), tetrakis(triphenylphosphine)palladium (6.3 mg, 0.0054 mmol) and 1,4-dioxane (1.2 mL), followed by stirring for 4 hours. The reaction mixture was added with 10% aqueous ammonium fluoride solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by preparative thin-layer chromatography (chloroform/methanol=10/1) to obtain 4-hydroxymethyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (15.0 mg, yield 23%).

reactant | 4-Trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.135 mmol, 80.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | hydroxymethyltributyltin | 0.27 mmol, 87 mg | OC[Sn](CCCC)(CCCC)CCCC
reactant | hydroxymethyltributyltin | 0.14 mmol, 44 mg | OC[Sn](CCCC)(CCCC)CCCC
reactant | ammonium fluoride | [F-].[NH4+]
solvent | 1,4-dioxane | 2.4 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0108 mmol, 12.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.054 mmol, 6.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.0054 mmol, 6.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | 4-hydroxymethyl-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 15.0 mg, yield 23% | OCC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C28H33N3O4
